US07544690B2
To a suspension of trans-{4-[(4-dimethylamino-quinazolin-2-ylamino)-methyl]-cyclohexylmethyl}-carbamic acid tert-butyl ester (20.1 g, 48.6 mmol) in EtOAc (200 mL) was added 4 M hydrogen chloride in EtOAc (200 mL). The mixture was stirred at ambient temperature for 90 min and concentrated to give a solid. The solid was alkalized with saturated aqueous NaHCO3 (pH=9), concentrated, and purified by flash chromatography (NH silica gel, 33% MeOH in CHCl3) to give trans-N2-(4-aminomethyl-cyclohexylmethyl)-N4,N4-dimethyl-quinazoline-2,4-diamine (14.7 g, 97%) as a white solid.

reactant | trans-{4-[(4-dimethylamino-quinazolin-2-ylamino)-methyl]-cyclohexylmethyl}-carbamic acid tert-butyl ester | 48.6 mmol, 20.1 g | C(C)(C)(C)OC(NC[C@@H]1CC[C@H](CC1)CNC1=NC2=CC=CC=C2C(=N1)N(C)C)=O | C23H35N5O2
reactant | hydrogen chloride | 4 M | Cl | ClH
reactant | NaHCO3 | pH=9 | C(=O)(O)[O-].[Na+]
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | trans-N2-(4-aminomethyl-cyclohexylmethyl)-N4,N4-dimethyl-quinazoline-2,4-diamine | 14.7 g, 97% | NC[C@@H]1CC[C@H](CC1)CNC1=NC2=CC=CC=C2C(=N1)N(C)C | C18H27N5
